US08981085B2
A solution of (R)-tert-butyl 1-(5-bromo-3-(2-cyclopropylacetamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (80 mg, 0.16 mmol) in neat TFA (3 mL) was stirred at room temperature for 30 minutes. TFA was then removed in vacuo. The oily residue obtained was dissolved in few drops of CH2Cl2 and treated with 2M HCl in ether (2 mL). The solid formed was filtered, washed with additional CH2Cl2 (3×3 mL). This material was dissolved in MeOH (0.5 mL), and CH3CN was added until the mixture became cloudy. The mixture was allowed to stand at room temperature. The solid formed was filtered, washed with additional CH3CN (2×2 mL), was dried under a stream of nitrogen first and then under high vacuum to provide (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-cyclopropylacetamide hydrochloride (32 mg, 42% yield) as a solid. 1H NMR (400 MHz, (CD3)2SO) δ 11.81 (s, 1H), 9.25 (s, 1H), 8.23 (s, 1H), 8.22 (br s, 3H), 7.54 (s, 1H), 3.45-3.38 (m, 2H), 3.36-3.26 (m, 2H), 3.10-3.04 (m, 1H), 2.31 (d, 2H), 2.15-2.08 (m, 1H), 1.86-1.79 (m, 1H), 1.72-1.62 (m, 1H), 1.53-1.45 (m, 1H), 1.13-1.06 (m, 1H), 0.54-0.51 (m, 2H), 0.24-0.21 (m, 2H); LCMS (APCI+) m/z 392.1, 394 (M+H)+, Retention time=2.23 minutes (Method 2).

reactant | (R)-tert-butyl 1-(5-bromo-3-(2-cyclopropylacetamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.16 mmol, 80 mg | BrC=1C(=C2C(=NC1)NC=C2NC(CC2CC2)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C22H30BrN5O3
reactant | HCl | 2M | Cl | ClH
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | ether | 2 mL | CCOCC | C4H10O
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-cyclopropylacetamide hydrochloride | 32 mg, 42% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(CC2CC2)=O | InChI=1S/C17H22BrN5O.ClH/c18-12-7-20-17-15(16(12)23-5-1-2-11(19)9-23)13(8-21-17)22-14(24)6-10-3-4-10;/h7-8,10-11H,1-6,9,19H2,(H,20,21)(H,22,24);1H/t11-;/m1./s1
